US06624305B2
A suspension of 4-chlorO-α,α-dimethyl-1H-imidazo-[4,5-c]quinoline-1-ethanol (1.0 g, 3.6 mmole, U.S. Pat. No. 4,689,338 Example 189 Part D) in hydrazine (3 mL, 6.9 mmole) was heated on a steam bath for 1 hour then diluted with water. The resulting precipitate was isolated by filtration. The solid was dissolved in a mixture of acetic acid (2 mL) and water (15 mL) then combined with a solution of sodium nitrate (0.5 g) in water. The resulting precipitate was isolated by filtration, washed with water and dried to provide 0.71 g of α,α-dimethyl-6H-imidazo[4,5-c]tetrazolo[1,5-a]quinoline-6-ethanol as a white solid, m.p. 246-247° C. (shrunk at 230° C.). Analysis: Calculated for C14H14N6O: %C, 59.56; %H, 5.00; %N, 29.77; Found: %C, 59.45; %H, 5.06; %N, 29.51.

reactant | 4-chlorO-α,α-dimethyl-1H-imidazo-[4,5-c]quinoline-1-ethanol | ClC1=NC=2C=CC=CC2C2=C1N=CN2CC(O)(C)C | C14H14ClN3O
reactant | hydrazine | 6.9 mmole, 3 mL | NN | H4N2
reactant | sodium nitrate | 0.5 g | [N+](=O)([O-])[O-].[Na+]
solvent | water | O | H2O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | water | 15 mL | O | H2O
product | α,α-dimethyl-6H-imidazo[4,5-c]tetrazolo[1,5-a]quinoline-6-ethanol | 0.71 g | CC(CN1C=NC=2C=3N(C4=CC=CC=C4C21)N=NN3)(O)C | C14H14N6O
